US08975254B2
N—((S)-1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(1-hydroxyethyl)-1H-pyrazole-3-carboxamide
(S)-5-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide (200 mg, 0.50 mmol) was dissolved in ethanol (10 ml) and sodiumborohydride (95 mg, 2.51 mmol) was added. The reaction mixture was refluxed for 2 h, cooled and saturated ammonium chloride (20 ml) was added. The mixture was extracted three times with ethyl acetate and the combined organic fractions were washed with water, dried and evaporated. The residue was purified twice with reversed phase flash chromatography to afford (6.7 mg, 3%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.13 (d, 3H), 1.37 (d, 3H), 4.24-4.40 (m, 2H), 4.39-4.53 (m, 1H), 4.72-4.84 (m, 1H), 6.47 (s, 1H), 6.98 (m, 1H), 7.71-7.80 (m, 2H), 7.79-7.88 (d, 1H), 8.15 (d, 1H).

reactant | (S)-5-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-3-carboxamide | 0.50 mmol, 200 mg | C(C)(=O)C1=CC(=NN1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)F)C | C19H16F2N6O2
reactant | sodiumborohydride | 2.51 mmol, 95 mg | [BH4-].[Na+]
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N—((S)-1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(1-hydroxyethyl)-1H-pyrazole-3-carboxamide | 6.7 mg, 3% | C(#N)C1=C(C=C(C=C1F)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NNC(=C1)C(C)O)F | C19H18F2N6O2
